US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a solution of 702 mg (1.68 mmol) of 1,2-dihydro- 3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 15 ml of methanol was added 0.17 ml of conc. HCl, then the solvent was distilled off. To the residue were added acetone and ether. The resulting crystals were washed with ether and dried to give 718 mg of the desired compound (94.1%, colorless crystals), m.p.141.0-143.0° C.

reactant | 1,2-dihydro- 3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.68 mmol, 702 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)CC(F)(F)F)=O | C17H21F3N4O3S
reactant | HCl | 0.17 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[6-[(2,2,2-trifluoro)ethanesulfonamido]hexan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 718 mg, 94.1% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCCNS(=O)(=O)CC(F)(F)F)=O | InChI=1S/C17H21F3N4O3S.ClH/c1-12-15-16(25)23(14-8-6-7-13(22-12)24(14)15)10-5-3-2-4-9-21-28(26,27)11-17(18,19)20;/h6-8,21H,2-5,9-11H2,1H3;1H
